US08710245B2
(a) Synthesis of tert-butyl 3-hydroxy-3-(thiophen-3-yl)pyrrolidine-1-carboxylate
To a solution of 3-bromothiophene (10 g, 61.8 mmol) in dry ether (200 mL) at −65° C. under N2 was added n-BiLi dropwise. After stirring at −65° C. for 1 h, tert-butyl 3-oxopyrrolidine-1-carboxylate (13.7 g, 74.2 mmol) in dry ether (80 mL) was added dropwise. After addition, the reaction mixture was warmed to 0° C. and stirred for 3 h. The reacton was quenched with water and extracted with ether. The combined organic layer was washed with brine, and dried over anhydrous Na2SO4. After filtration and concentration, the crude product was purified by column chromatography to give the title compound (9.8 g, 59%).

reactant | 3-bromothiophene | 61.8 mmol, 10 g | BrC1=CSC=C1 | C4H3BrS
reactant | tert-butyl 3-oxopyrrolidine-1-carboxylate | 74.2 mmol, 13.7 g | O=C1CN(CC1)C(=O)OC(C)(C)C | C9H15NO3
solvent | ether | 200 mL | CCOCC | C4H10O
solvent | ether | 80 mL | CCOCC | C4H10O
product | tert-butyl 3-hydroxy-3-(thiophen-3-yl)pyrrolidine-1-carboxylate | 9.8 g, 59% | OC1(CN(CC1)C(=O)OC(C)(C)C)C1=CSC=C1 | C13H19NO3S
